US07250442B2
1-(2-Chloro-benzyl)-7-methyl-1H-indole-2,3-dione
Combine 7-methylisatin (80 mg, 0.5 mmol), 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine on polystyrene beads(630-720 mg, 1.4-1.6 mmol, 2.2 mmol/g, Fluka) and 2-chlorobenzyl bromide (0.065 mL, 0.5 mmol) in acetonitrile (5 mL) in a 20 dram scintillation vial and shake on a rotator for 2.5 days at room temperature. Dilute with CH2Cl2 or acetonitrile and filter off beads. Concentrate in vacuo to obtain 126 mg (88%) of the title compound as crude product as a red-orange solid. MS (ES): m/z=286 (M+1).

reactant | 7-methylisatin | 0.5 mmol, 80 mg | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine on polystyrene | CCN(CC)P1(=NC(C)(C)C)NCCCN1C | C12H29N4P
reactant | 2-chlorobenzyl bromide | 0.5 mmol, 0.065 mL | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloro-benzyl)-7-methyl-1H-indole-2,3-dione | 126 mg, 88% | ClC1=C(CN2C(C(C3=CC=CC(=C23)C)=O)=O)C=CC=C1 | C16H12ClNO2
